US07435733B2
To prepare this compound, potassium borohydride (0.28 g, 5.2 mmol) was added in portions to a suspension of 5-bromo-3,4-dihydro-8-nitro-2H-naphthalen-1-one (0.20 g, 0.74 mmol) and Cu2Cl2 (0.22 g, 2.2 mmol) in 2 mL anhydrous methanol at room temperature. After 20 minutes, the methanol was evaporated under reduced pressure. The residue was extracted with a mixture of EtOAc and water. The EtOAc layer was washed sequentially with water and brine, dried over sodium sulfate, filtered, and concentrated. Flash chromatography (18% EtOAc/hexanes) afforded 0.12 g (70%) of 8-amino-5-bromo-1,2,3,4-tetrahydronaphthalen-1-ol, a light brown solid. 1H NMR (500 MHz, CDCl3) δ 7.27 (d, J=8.5, 1H), 6.47 (d, J=8.5, 1H), 4.77 (dd, J=4.0, 3.4, 1H), 2.9-4.0 (very broad, 3H), 2.82-2.90 (m, 1H), 2.46-2.56 (m, 1H), 2.00-2.08 (m, 1H), 1.7-1.9 (m, 3H).

reactant | potassium borohydride | 5.2 mmol, 0.28 g | [BH4-].[K+]
reactant | 5-bromo-3,4-dihydro-8-nitro-2H-naphthalen-1-one | 0.74 mmol, 0.20 g | BrC1=C2CCCC(C2=C(C=C1)[N+](=O)[O-])=O | C10H8BrNO3
solvent | methanol | 2 mL | CO | CH4O
product | 8-amino-5-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 0.12 g, 70% | NC=1C=CC(=C2CCCC(C12)O)Br | C10H12BrNO
